US08216800B2
3.2 2-(2′-Amino-5′-chlorophenyl)benzothiazole
A mixture of 0.65 g (0.00223 mol) of 2-(2′-nitro-5′-chlorophenyl)benzothiazole OF31A and 2.52 g (0.01118 mol) of SnCl2.2H2O in 100 ml of ethanol was heated at 70° C. for 2 hours. A verification step using thin layer chromatography showed that the mixture no longer contained any starting reactant.

reactant | 2-(2′-nitro-5′-chlorophenyl)benzothiazole | 0.00223 mol, 0.65 g | [N+](=O)([O-])C1=C(C=C(C=C1)Cl)C=1SC2=C(N1)C=CC=C2 | C13H7ClN2O2S
reactant | SnCl2.2H2O | 0.01118 mol, 2.52 g | O.O.Cl[Sn]Cl
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2-(2′-Amino-5′-chlorophenyl)benzothiazole | NC1=C(C=C(C=C1)Cl)C=1SC2=C(N1)C=CC=C2 | C13H9ClN2S
